US06310208B1
A solution of 39 ml (262.4 mmol) of trimethyl phosphonoacetate in 450 ml of tetrahydrofuran was added dropwise at 0° to a suspension of 9.54 g (238.5 mmol) of sodium hydride (55% in mineral oil) in 450 ml of tetrahydrofuran and the mixture was stirred for 30 minutes. Subsequently, the white suspension was treated with a solution of 33.15 g (119.5 mmol) of 3-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-piperidin-4-one in 450 ml of tetrahydrofuran and the mixture was stirred at 50° for 2 hours. After cooling to room temperature the mixture was poured on to 500 ml of ice-water and extracted three times with 400 ml of diethyl ether. The organic phases were washed with 400 ml of water and 400 ml of saturated sodium chloride solution, dried (Na2SO4), filtered and evaporated. Chromatography (silica gel, methylene chloride/methanol 19:1) and recrystalization from hexane yielded 36.33 g (91%) of methyl (E)-[3-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-piperidin-4-ylidene]acetate as pale yellow crystals of m.p. 110-112°.

reactant | trimethyl phosphonoacetate | 262.4 mmol, 39 ml | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | sodium hydride | 238.5 mmol, 9.54 g | [H-].[Na+]
reactant | 3-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-piperidin-4-one | 119.5 mmol, 33.15 g | C(C)C1=C(C=C(C=C1OC)C1CN(CCC1=O)C)OC | C16H23NO3
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | methyl (E)-[3-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-piperidin-4-ylidene]acetate | 36.33 g, 91% | C(C)C1=C(C=C(C=C1OC)C\1CN(CC/C1=C\C(=O)OC)C)OC | C19H27NO4
